US07956052B2
1-(4-Methoxyphenyl)-2,2-dimethylcyclopropanecarbonyl chloride (0.20 mmol) was added to a solution of 4-(6-aminopyridin-2-yl)-N-methylbenzenesulfonamide HCl salt (60 mg, 0.20 mmol) in pyridine (1 mL) at room temperature. The reaction was stirred at 60° C. overnight and then was concentrated, dissolved in DMSO and purified by LC-MS to yield 1-(4-methoxyphenyl) -2,2-dimethyl-N-(6-(4-(N-methylsulfamoyl)-phenyl)pyridin-2-yl)cyclo-propanecarboxamide. ESI-MS m/z calc. 465.2, found 466.5 (M+1)+. Retention time 1.98 minutes.

reactant | 1-(4-Methoxyphenyl)-2,2-dimethylcyclopropanecarbonyl chloride | 0.20 mmol | COC1=CC=C(C=C1)C1(C(C1)(C)C)C(=O)Cl | C13H15ClO2
reactant | 4-(6-aminopyridin-2-yl)-N-methylbenzenesulfonamide HCl salt | 0.20 mmol, 60 mg | Cl.NC1=CC=CC(=N1)C1=CC=C(C=C1)S(=O)(=O)NC
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4-methoxyphenyl) -2,2-dimethyl-N-(6-(4-(N-methylsulfamoyl)-phenyl)pyridin-2-yl)cyclo-propanecarboxamide | COC1=CC=C(C=C1)C1(C(C1)(C)C)C(=O)NC1=NC(=CC=C1)C1=CC=C(C=C1)S(NC)(=O)=O | C25H27N3O4S
